US08557876B2
A 100 mL reaction flask is charged with 2,2,6,6-tetramethyl-heptan-4-one (10 g, 0.06 mol), formamidine acetate (33 g, 0.3 mol), and butanol (50 mL). The reaction mixture is heated to 130° C. and stirred for 24 hours. The crude mass is washed once with aqueous sulfuric acid (10%, 100 mL) followed by twice with brine (30 mL). Butanol is recovered by roto-evaporation. The crude product is further purified with liquid chromatography (Biotage® system) and then crystallized. Product 5-tert-butyl-4-(2,2-dimethyl-propyl)-pyrimidine (˜5 g) is obtained.

reactant | 2,2,6,6-tetramethyl-heptan-4-one | 0.06 mol, 10 g | CC(C)(CC(CC(C)(C)C)=O)C | C11H22O
reactant | formamidine acetate | 0.3 mol, 33 g | C(C)(=O)O.C(=N)N
solvent | butanol | 50 mL | C(CCC)O | C4H10O
product | 5-tert-butyl-4-(2,2-dimethyl-propyl)-pyrimidine | ˜5 g | C(C)(C)(C)C=1C(=NC=NC1)CC(C)(C)C | C13H22N2
